US04399141
Step A: Preparation of 10-amino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
To a stirred slurry of zinc dust (0.9 g, 0.138 mole) in 100 ml of glacial acetic acid stirred in an oil bath at 65° was added 10-hydroxyamino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (10 g, 42 mmole). The mixture was stirred in the oil bath for 2 hours, cooled, and quenched in 500 ml of water. The mixture was made basic with concentrated ammonia, then extracted with ether. The combined ether layers were washed with water, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was recrystallized from hexane to give 7.8 g, m.p. 84.5°-86.5°.

reactant | 10-hydroxyamino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 42 mmole, 10 g | ONC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C16H15NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.138 mole, 0.9 g | [Zn] | Zn
product | 10-amino-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | NC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C16H15N
